### PR TITLE
[Merged by Bors] - chore(Algebra/MonoidAlgebra): process some porting notes

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -63,7 +63,6 @@ def liftMagma [Module k A] [IsScalarTower k A A] [SMulCommClass k A A] :
     { liftAddHom fun x => (smulAddHom k A).flip (f x) with
       toFun := fun a => a.sum fun m t => t • f m
       map_smul' := fun t' a => by
-        -- Porting note (https://github.com/leanprover-community/mathlib4/issues/12129): additional beta reduction needed
```
Comment (grunweg) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean:66]: Future idea: should all occurrences of this note simply be deleted? IIRC, that issue almost converged to that conclusion.

File: Mathlib/Algebra/MonoidAlgebra/ToDirectSum.lean [hunk 2]
```diff
@@ -126,31 +126,10 @@ theorem toDirectSum_mul [DecidableEq ι] [AddMonoid ι] [Semiring M] (f g : AddM
...
-  simp only [AddMonoidHom.coe_mk, ZeroHom.coe_mk, toDirectSum_single]
-  -- This was not needed before https://github.com/leanprover/lean4/pull/2644
-  dsimp
-  rw [AddMonoidAlgebra.single_mul_single, AddMonoidHom.coe_mk, AddMonoidHom.coe_mk, ZeroHom.coe_mk,
-    AddMonoidAlgebra.toDirectSum_single]
-  simp only [AddMonoidHom.coe_comp, AddMonoidHom.coe_mul, AddMonoidHom.coe_mk, ZeroHom.coe_mk,
-    Function.comp_apply, toDirectSum_single, AddMonoidHom.id_apply, Finsupp.singleAddHom_apply,
-    AddMonoidHom.coe_mulLeft]
-  rw [DirectSum.of_mul_of, Mul.gMul_mul]
+  ext xi xv yi yv : 4
```
Comment (grunweg) [inline Mathlib/Algebra/MonoidAlgebra/ToDirectSum.lean:131]: Nice one!

**Review by grunweg — COMMENTED** [review]
I'm happy with this removal if you are. Thanks for taking care of mathlib's tech debt mountain!
maintainer merge

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean [hunk 3]
```diff
@@ -303,9 +303,8 @@ instance nonAssocRing [Ring k] [MulOneClass G] : NonAssocRing (MonoidAlgebra k G
   { MonoidAlgebra.addCommGroup,
     MonoidAlgebra.nonAssocSemiring with
     intCast := fun z => single 1 (z : k)
-    -- Porting note: Both were `simpa`.
-    intCast_ofNat := fun n => by simp; rfl
-    intCast_negSucc := fun n => by simp; rfl }
+    intCast_ofNat := fun n => by simp [natCast_def]
+    intCast_negSucc := fun n => by simp [natCast_def, one_def] }
```
Comment (adomani) [inline Mathlib/Algebra/MonoidAlgebra/Defs.lean:307]:
```suggestion
    intCast_ofNat n := by simp [natCast_def]
    intCast_negSucc n := by simp [natCast_def, one_def] }
```
unless you think that it is out of scope for this PR!

File: Mathlib/Algebra/MonoidAlgebra/ToDirectSum.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Algebra/MonoidAlgebra/ToDirectSum.lean:131]: Indeed... wow!

**Review by adomani — APPROVED** [review]
Thanks: just a minor comment!

bors d+

**Review by jcommelin — COMMENTED** [review]
bors r+
